US04866137
250 g of a mixture containing 57% by weight of cumene hydroperoxide, 30% by weight of cumyl alcohol and 10% by weight of cumene, obtained by partial reduction of commercial cumene hydroperoxide (78.5% by weight) were loaded into a round-bottom flask provided with stirrer; thereafter 37 g of a meta/para mixture (65% meta+35% para) of diisopropylbenzene dialcohol were introduced. On the whole 0.94 mol of cumene hydroperoxide, 0.55 mol of cumyl alcohol and 0.19 mol of meta/para diisopropylbenzene di-alcohol were present. Then, 71 g of a 70% by weight aqueous solution of para-toluenesulfonic acid were introduced within 30 minutes and under stirring, while keeping the reaction temperature between 25° and 30° C.; the mixture was allowed to react at this temperature for 3 hours. By working as in Examples 1 and 2,190 g of a product (liquid at room temperature), containing 60% by weight of dicumyl peroxide and 35% of di(cumylperoxy)diisopropylbenzene were obtained; 21 g of tert.butylperoxide were added. At the end a product was obtained, containing 32% by weight of di(cumylperoxy)diisopropylbenzene (PEROXIMON 169), 54% by weight of dicumylperoxide (DCP) and 10% by weight of tert.butyl-cumylperoxide; this final liquid composition showed the following characteristics:

reactant | diisopropylbenzene | C(C)(C)C1=C(C=CC=C1)C(C)C | C12H18
reactant | cumene hydroperoxide | 0.94 mol | [O-]O.C1(=CC=CC=C1)C(C)C
reactant | cumyl alcohol | 0.55 mol | C(C)(C)(C1=CC=CC=C1)O | C9H12O
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dicumyl peroxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
product | di(cumylperoxy)diisopropylbenzene | 35% | C(C)(C)(C1=CC=CC=C1)OOC1=C(C(=C(C=C1)C(C)C)C(C)C)OOC(C)(C)C1=CC=CC=C1 | C30H38O4
